US05362879
NaH (820 mg of a 50% dispersion, 17 mmol) was covered with DMF (80 mL) and 5-(4,5-diphenyl-2-oxazolyl)-2-pyrrolidinone (4.00 g, 13 mmol) added. The mixture was stirred at about 120° C. for about 15 minutes, cooled to room temperature and methyl 8-bromooctanoate (3.42 g, 14.5 mmol) added. The mixture was heated at about 110° C. for about 1 hour, cooled, diluted with 1N HCl and extracted with Et2O (3 times). The combined extracts were washed with H2O (3 times), dried over Na2SO4 and the solvent evaporated. The residual oil was chromatographed on a column of silica gel using Et2O as eluent to afford methyl 2-(4,5-Diphenyl-2-oxazolyl)-5-oxo-l-pyrrolidineoctanoate (4.85 g, 80%) as an oil. IR (Film) 1740 (CO2CH3), 1695 (N.CO) cm-1 ; 1H NMR (CDCl3) δ1.18-1.60 (10H, m, CH2), 2.20 (2H, t, J=7 Hz, CH2CO2CH3), 2.30-2.55 (3H, m, CH2 of ring), 2.73 (1H, m, CH2 of ring), 3.00 (2H, m, NCH2 of side chain), 3.61 (3H, s, CO2CH3), 4.86 (1H, m, CHN of ring), 7.25-7.40 (6H, m, aromatic H) , 7.50-7.70 (4H, m, aromatic H), MS m/z 461 (MH+).

reactant | NaH | [H-].[Na+]
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
reactant | 5-(4,5-diphenyl-2-oxazolyl)-2-pyrrolidinone | 13 mmol, 4.00 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1CCC(N1)=O | C19H16N2O2
reactant | methyl 8-bromooctanoate | 14.5 mmol, 3.42 g | BrCCCCCCCC(=O)OC | C9H17BrO2
solvent | HCl | 1N | Cl | ClH
product | methyl 2-(4,5-Diphenyl-2-oxazolyl)-5-oxo-l-pyrrolidineoctanoate | 4.85 g, 80% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1N(C(CC1)=O)CCCCCCCC(=O)OC | C28H32N2O4
